US09034866B2
Into a 2000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of argon was placed 4-bromo-3-fluorophenol (50 g, 261.78 mmol, 1.00 equiv), acetone (500 mL), NaI (2.8 g, 0.07 equiv), potassium carbonate (54.2 g, 392.16 mmol, 1.50 equiv), and ethyl 4-bromobutanoate (61.3 g, 314.27 mmol, 1.20 equiv). The resulting solution was stirred at 56° C. overnight. The solids were filtered out and the filtrate was concentrated under vacuum. The residue was dissolved in 1000 mL of EA and the resulting mixture was washed with 2×100 mL of sodium hydroxide (1 N) and 3×100 mL, of water. The combined organic layers were dried over anhydrous sodium sulfate and concentrated under vacuum to afford 80.6 g (crude) of ethyl 4-(4-bromo-3-fluorophenoxy)butanoate as a light yellow oil.

reactant | 4-bromo-3-fluorophenol | 261.78 mmol, 50 g, 1.00 equiv | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | potassium carbonate | 392.16 mmol, 54.2 g, 1.50 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutanoate | 314.27 mmol, 61.3 g, 1.20 equiv | BrCCCC(=O)OCC | C6H11BrO2
catalyst | NaI | 2.8 g, 0.07 equiv | [Na+].[I-]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | ethyl 4-(4-bromo-3-fluorophenoxy)butanoate | 80.6 g | BrC1=C(C=C(OCCCC(=O)OCC)C=C1)F | C12H14BrFO3
